US04560701
Ethyl 4-(4-aminophenyl)pentanoate
A mixture of 114 g of ethyl 4-(4-nitrophenyl)pentanoate, 170 ml of absolute ethanol and 2 g of 10% palladium-on-charcoal, was hydrogenated (Paar shaker) until consumption of hydrogen ceased. The catalyst was filtered and the ethanol evaporated. The residue was partitioned between water and ether. The ether extract was washed with 5% sodium bicarbonate and water. The ether extract was dried over anhydrous sodium sulfate, filtered and evaporated to give an oil. The oil was distilled 0.55-0.60 mm to give 85 g (86%) of product, b.p. 118°-122° C.

reactant | ethyl 4-(4-nitrophenyl)pentanoate | 114 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CCC(=O)OCC)C | C13H17NO4
catalyst | palladium-on-charcoal | 2 g | [Pd] | Pd
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | Ethyl 4-(4-aminophenyl)pentanoate | 85 g, 86% | NC1=CC=C(C=C1)C(CCC(=O)OCC)C | C13H19NO2
